US09108957B2
To a solution of (S)-6-(4-bromophenyl)-4-((R)-1-phenylethyl)-1,4-oxazepan-3-one (1.09 g, 2.91 mmol) in tetrahydrofuran (14.0 ml) was added 1.0M-borane-tetrahydrofuran complex in tetrahydrofuran (6.40 ml, 6.40 mmol) at 0° C. The mixture was stirred at room temperature for 5 hours. After the reaction mixture was cooled to 0° C., methanol (15 ml) and 6.0N-sodium hydroxide (10 ml) was added carefully. The resulting mixture was refluxed for 2 hours and cooled to room temperature. The organic solvent was removed under reduced pressure. The residue was partitioned between saturated ammonium chloride solution and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant; hexane/ethyl acetate=7/3) to afford (S)-6-(4-bromophenyl)-4-((R)-1-phenylethyl)-[1,4]oxazepane as white solid (1.00 g, 95%).

reactant | (S)-6-(4-bromophenyl)-4-((R)-1-phenylethyl)-1,4-oxazepan-3-one | 2.91 mmol, 1.09 g | BrC1=CC=C(C=C1)[C@H]1CN(C(COC1)=O)[C@H](C)C1=CC=CC=C1 | C19H20BrNO2
reactant | methanol | 15 ml | CO | CH4O
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 14.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.40 mmol, 6.40 ml | O1CCCC1 | C4H8O
product | (S)-6-(4-bromophenyl)-4-((R)-1-phenylethyl)-[1,4]oxazepane | 1.00 g, 95% | BrC1=CC=C(C=C1)[C@H]1CN(CCOC1)[C@H](C)C1=CC=CC=C1 | C19H22BrNO
